US04423047
2-Benzylthio-5-bromopyrimidine
Benzyl thiol (22 mmol) was added to 0.146 M ethanolic NaOEt (150 ml) at room temperature followed by 2-chloro-5-bromopyrimidine (20 mmol). The mixture was stirred at room temperature for 70 min, heated under reflux for 40 min, the solvent evaporated off at reduced pressure, the residue extracted with chloroform (100 ml), the chloroform solution washed with 2 M NaOH, and the dried (MgSO4) solution evaporated; yield 81%, m.p. 68°-69° C. (dil. MeOH). 1H NMR (CDCl3): δ4.36 (CH2), 7.26 (Ph), 8.50. (H-4, H-6).

reactant | Benzyl thiol | 22 mmol | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-chloro-5-bromopyrimidine | 20 mmol | ClC1=NC=C(C=N1)Br | C4H2BrClN2
solvent | NaOEt | 0.146 M, 150 ml | CC[O-].[Na+]
product | 2-Benzylthio-5-bromopyrimidine | yield 81% | C(C1=CC=CC=C1)SC1=NC=C(C=N1)Br | C11H9BrN2S
